US08383631B2
3-amino-1-[{4-(cyclohexylphenyl)piperazin-1-yl}propanoyl]-6-N-(p-tolyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one (Compound 28)
A target compound (136.1 mg, 0.251 mmol, 67.8%) was yielded as solid in the same manner as Example 1 by reacting 3-amino-5,6-dihydro-6-N-(p-tolyl)-1H-pyrazolo[3,4-c]pyridin-7(4H)-one (90 mg, 0.371 mmol) with potassium carbonate (76.8 mg, 0.556 mmol) and 3-chloro-1-{4-(4-cyclohexylphenyl)piperazin-1-yl}propan-1-one (136.6 mg, 0.408 mmol).

reactant | 3-amino-5,6-dihydro-6-N-(p-tolyl)-1H-pyrazolo[3,4-c]pyridin-7(4H)-one | 0.371 mmol, 90 mg | NC1=NNC=2C(N(CCC21)C2=CC=C(C=C2)C)=O | C13H14N4O
reactant | potassium carbonate | 0.556 mmol, 76.8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-1-{4-(4-cyclohexylphenyl)piperazin-1-yl}propan-1-one | 0.408 mmol, 136.6 mg | ClCCC(=O)N1CCN(CC1)C1=CC=C(C=C1)C1CCCCC1 | C19H27ClN2O
product | 3-amino-1-[{4-(cyclohexylphenyl)piperazin-1-yl}propanoyl]-6-N-(p-tolyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one | NC1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)C)=O)C(CCN2CCN(CC2)C2=C(C=CC=C2)C2CCCCC2)=O | C32H40N6O2
